US07732461B2
(c) 1,1-dimethylethyl (1-{3-hydroxy-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]propyl}-4-piperidinyl)carbamate
To a solution of methyl 3-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]propanoate (1.70 g, 3.83 mmol) in tetrahydrofuran (40 ml) at −78° C. was added lithium aluminium hydride (1M in diethyl ether, 4.59 ml, 4.59 mmol). The reaction was then stirred at −78° C. for 0.5 h before water (10 ml), then 2M NaOH solution (10 ml) and finally water (10 ml) was added and the mixture warmed to ambient temperature and then filtered and evaporated. The residue was subjected to column chromatography on silica gel using a 0-5% methanol in dichloromethane gradient affording the desired compound as a white solid (601 mg, 38%).

reactant | methyl 3-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]propanoate | 3.83 mmol, 1.70 g | CC(C)(C)OC(=O)NC1CCN(CC1)CC(C(=O)OC)C1=CC=NC2=CC=C(N=C12)OC | C23H32N4O5
reactant | lithium aluminium hydride | 4.59 mmol, 1M, 4.59 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 10 ml | O | H2O
reactant | NaOH | 2M, 10 ml | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl (1-{3-hydroxy-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]propyl}-4-piperidinyl)carbamate | 601 mg, 38% | OCC(CN1CCC(CC1)NC(OC(C)(C)C)=O)C1=CC=NC2=CC=C(N=C12)OC | C22H32N4O4
